US07495022B2
(10-1) 4-(Phenylsulfanylmethyl)benzoic acid methyl ester
To a mixture of benzenethiol (1.3 mL, 13.1 mmol) and potassium tert-butoxide (1.47 g, 13.1 mmol) in DMF (50 mL) at 0° C. was added 4-(bromomethyl)benzoic acid methyl ester (3.0 g, 13.1 mmol), and the mixture was stirred at room temperature for 1 hour. After stirring at 80-90° C. overnight, the reaction mixture was evaporated to dryness under reduced pressure. The residue was dissolved in water (30 mL) and extracted with CH2Cl2 (200 mL). The organic layer was dried (MgSO4) and evaporated under reduced pressure. The crude product was purified by MPLC on silica gel (10% EtOAc in hexanes) to afford the titled compound (2.74 g, 81%) as a white solid.

reactant | benzenethiol | 13.1 mmol, 1.3 mL | C1(=CC=CC=C1)S | C6H6S
reactant | potassium tert-butoxide | 13.1 mmol, 1.47 g | CC(C)([O-])C.[K+]
reactant | 4-(bromomethyl)benzoic acid methyl ester | 13.1 mmol, 3.0 g | COC(C1=CC=C(C=C1)CBr)=O | C9H9BrO2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-(Phenylsulfanylmethyl)benzoic acid methyl ester | 2.74 g, 81% | COC(C1=CC=C(C=C1)CSC1=CC=CC=C1)=O | C15H14O2S
